US06566373B2
b) 4-Benzyloxycarbonylamino-tetrahydrofuran-3-one
A solution of bleach (100 ml), containing sodium bicarbonate (7.34 g), was added dropwise to a rapidly stirred mixture of 3-hydroxy-4-benzyloxycarbonylamino-tetrahydrofuran (21 g, 88 mmol), sodium bromide (9.4 g), TEMPO (50 mg) in EtOAc (140 ml), toluene (140 ml) and water (40 ml). After a persistant orange colour developed the mixture was extracted with EtOAc and the combined organic layers were washed with saturated sodium bicarbonate, brine and dried (MgSO4). Evaporation under reduced pressure and purification of the residue by column chromatography afforded the title compound as white crystals, 18 g, 87%.

reactant | sodium bicarbonate | 7.34 g | C([O-])(O)=O.[Na+]
reactant | 3-hydroxy-4-benzyloxycarbonylamino-tetrahydrofuran | 88 mmol, 21 g | OC1COCC1NC(=O)OCC1=CC=CC=C1 | C12H15NO4
reactant | sodium bromide | 9.4 g | [Br-].[Na+]
reactant | TEMPO | 50 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | EtOAc | 140 ml | CCOC(=O)C | C4H8O2
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 ml | O | H2O
product | 4-Benzyloxycarbonylamino-tetrahydrofuran-3-one | C(C1=CC=CC=C1)OC(=O)NC1C(COC1)=O | C12H13NO4
